US08071650B2
Step 2: Synthesis of 2-methanesulfonylaminophenethylamine
(2-Methanesulfonylaminophenyl)acetonitrile (300 mg) was mixed with 10% palladium/carbon (catalytic amount) in methanol (20 ml) and the mixture was stirred under hydrogen gas atmospheres for 48 hours. After confirming the completion of the reaction using TLC, the resulting mixture was filtered through celite and the filtrate was concentrated under reduced pressure. The following procedure was carried out using the concentrate which was not purified.

reactant | (2-Methanesulfonylaminophenyl)acetonitrile | 300 mg | CS(=O)(=O)NC1=C(C=CC=C1)CC#N | C9H10N2O2S
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium/carbon | [Pd] | Pd
product | 2-methanesulfonylaminophenethylamine | CS(=O)(=O)NC1=C(CCN)C=CC=C1 | C9H14N2O2S
